US09428528B2
Step 7 Preparation of (5-{4-[(1R,2S)-2-(2,2-Dichloro-acetylamino)-3-fluoro-1-hydroxy-propyl]-phenyl}-oxazol-2-ylmethyl)-carbamic acid tert-butyl ester
To a stirred solution of 5-Bromo-oxazol-2-ylmethyl)-carbamic acid tert-butyl ester (0.035 g, 0.13 mmol) and 2,2-Dichloro-N-[(1S,2R)-1-fluoromethyl-2-hydroxy-2-(4-trimethylstannanyl-phenyl)-ethyl]-acetamide (0.05 g, 0.11 mmol) in dry toluene (2.0 mL) is added CsF (0.034 g, 0.22 mmol) followed by CuI (0.002 g, 0.011 mmol) at room temperature. The resulting reaction mixture is degassed with nitrogen for 30 minutes then Pd2(PPh3)Cl2 (0.008 g, 0.011 mmol) is added and heated in microwave at 100° C. for 30 min. Reaction mixture is diluted with water and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by column chromatography eluting in 10% methanol in CH2Cl2 follow by second purification using preparative HPLC to give the title compound (0.006 g, pure). LC-Ms (m/z): [M−H]=476.0.

reactant | carbamic acid tert-butyl ester | 0.13 mmol, 0.035 g | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | 2,2-Dichloro-N-[(1S,2R)-1-fluoromethyl-2-hydroxy-2-(4-trimethylstannanyl-phenyl)-ethyl]-acetamide | 0.11 mmol, 0.05 g | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)[Sn](C)(C)C)O)CF)Cl
reactant | CsF | 0.22 mmol, 0.034 g | [F-].[Cs+]
reactant | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | CuI | 0.011 mmol, 0.002 g | [Cu]I
product | (5-{4-[(1R,2S)-2-(2,2-Dichloro-acetylamino)-3-fluoro-1-hydroxy-propyl]-phenyl}-oxazol-2-ylmethyl)-carbamic acid tert-butyl ester | 0.006 g | C(C)(C)(C)OC(NCC=1OC(=CN1)C1=CC=C(C=C1)[C@H]([C@@H](CF)NC(C(Cl)Cl)=O)O)=O | C20H24Cl2FN3O5
